US04872901
EXAMPLE 3 5,7-Dimethoxy-2-(1,3-dimethyl-4-ethoxycarbonyl-5-pyrazolesulfonyl)imino-2H-1,2,4-thiadiazolo[2,3-a]pyrimidine (Compound No. 3)
0.5 g of N-(1,3-dimethyl-4-ethoxycarbonyl-5-pyrazolesulfonyl)-N'-(4,6-dimethyl-2-pyrimidinyl)thiourea is suspended in 20 ml of methanol, followed by adding 0.2 g of N-bromosuccinimide while stirring at --4° C. to -5° C. The reaction mixture is stirred at the same temperature for 25 minutes. The separating crystals are filtered, and washed with methanol. Recrystallization of the crystals from acetonitrile yields 0.4 g of the title compound as colorless

reactant | N-(1,3-dimethyl-4-ethoxycarbonyl-5-pyrazolesulfonyl)-N'-(4,6-dimethyl-2-pyrimidinyl)thiourea | 0.5 g | CN1N=C(C(=C1S(=O)(=O)NC(=S)NC1=NC(=CC(=N1)C)C)C(=O)OCC)C | C15H20N6O4S2
reactant | N-bromosuccinimide | 0.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methanol | 20 ml | CO | CH4O
product | 5,7-Dimethoxy-2-(1,3-dimethyl-4-ethoxycarbonyl-5-pyrazolesulfonyl)imino-2H-1,2,4-thiadiazolo[2,3-a]pyrimidine | 0.4 g | COC1=NC=2N(C(=C1)OC)SC(N2)=NS(=O)(=O)C2=C(C(=NN2C)C)C(=O)OCC | C15H18N6O6S2
